US05650428
The procedure described in Example 15 was repeated, except that (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy) propanamide (4.34 g) was hydrogenolyzed in the presence of 10% Pd-C, and then, reacted with 4-chlorobenzenesulfonyl chloride (3.87 g) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide (3.07 g).

reactant | (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy) propanamide | 4.34 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1OCCCC1 | C26H32N2O7
reactant | 4-chlorobenzenesulfonyl chloride | 3.87 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
catalyst | Pd-C | [Pd] | Pd
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 3.07 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1OCCCC1 | C24H29ClN2O7S
